US07612060B2
Step (ii): Synthesis of 3-(tert-butyldiphenylsilyloxy)-propanamidine
To a suspension of NH4Cl (5.35 g, 0.1 mol) in dry benzene (60 mL) at 0° C. was slowly added a solution of trimethylaluminum in toluene (50 mL of 2 M). After the addition was complete, the reaction mixture was allowed to warm up to room temperature and was stirred for 2 h until gas evolution had ceased. A solution of 3-(tert-butyldiphenylsilyloxy)propanenitrile (9.27 g, 0.03 mol) in dry benzene (20 mL) was added to the aluminum amide reagent and the resulting mixture was heated up to 80° C. for 20 h. The reaction mixture was slowly cooled to room temperature and then carefully poured into a slurry of 300 mL of DCM and 200 g of silica gel. It was then filtered and washed thoroughly with MeOH/DCM (1:2). After concentration, flash chomatography (SiO2, EtOAc to EtOAc/MeOH=100:20 to 100:30 to EtOAc/2M NH3 in MeOH=100:30) gave the title compound as a white solid.

reactant | NH4Cl | 0.1 mol, 5.35 g | [NH4+].[Cl-]
reactant | trimethylaluminum | C[Al](C)C
reactant | 3-(tert-butyldiphenylsilyloxy)propanenitrile | 0.03 mol, 9.27 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC#N | C19H23NOSi
reactant | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | benzene | 60 mL | C1=CC=CC=C1 | C6H6
solvent | toluene | 2 M, 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 3-(tert-butyldiphenylsilyloxy)-propanamidine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(=N)N | C19H26N2OSi
